US03966766
In a manner similar to that described in Example 2B, treat the pentaethylene glycol dibromide with phthalimide and potassium hydroxide in ethanol. Isolate and purify the resultant product in a manner similar to that described to obtain pentaethyleneglycol diphthalimide.

reactant | pentaethylene glycol dibromide | [Br-].[Br-].C(COCCOCCOCCOCCO)O
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | pentaethyleneglycol diphthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.C2(C=1C(C(N2)=O)=CC=CC1)=O.C(COCCOCCOCCOCCO)O | InChI=1S/C10H22O6.2C8H5NO2/c11-1-3-13-5-7-15-9-10-16-8-6-14-4-2-12;2*10-7-5-3-1-2-4-6(5)8(11)9-7/h11-12H,1-10H2;2*1-4H,(H,9,10,11)
